US07816522B2
(3f) 5-{[2-fluoro-3-(2-fluoroethoxy)-5-methoxyphenyl]-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-2-pyrimidin-2-yl-2,4-dihydro-[1,2,4]triazol-3-one
After adding 1.09 g of 2-hydrazinopyrimidine [CAS No. 7504-94-1] and 1.37 ml of triethylamine to a solution of 5.0 g of {2-[2-fluoro-3-(2-fluoroethoxy)-5-methoxyphenyl]-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester in 50 ml of DMF, the mixture was stirred at 85° C. for 20 hours and 30 minutes under a nitrogen atmosphere. The reaction mixture was concentrated, and the residue was dissolved in 30 ml of methanol, 10 ml of THF and 3 ml of acetic acid. Next, 2.0 g of sodium cyanotrihydroborate was added to the solution, and after stirring at room temperature for 3 hours, 1.0 g of sodium cyanotrihydroborate was further added and stirring was continued for 2 hours and 30 minutes at room temperature. Water and ethyl acetate were added to the reaction mixture, and the insoluble portion was filtered off to give the title compound as a white solid. The filtrate was extracted with ethyl acetate and the organic layer was concentrated under reduced pressure. The residue was purified by NAM silica gel column chromatography (methanol-ethyl acetate) to give the title compound (total: 4.88 g) as a white solid.

reactant | 2-hydrazinopyrimidine | 1.09 g | N(N)C1=NC=CC=N1 | C4H6N4
reactant | triethylamine | 1.37 ml | C(C)N(CC)CC | C6H15N
reactant | {2-[2-fluoro-3-(2-fluoroethoxy)-5-methoxyphenyl]-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | 5.0 g | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=C(C(=CC(=C1)OC)OCCF)F)SC)=O | C23H22F2N4O5S
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-{[2-fluoro-3-(2-fluoroethoxy)-5-methoxyphenyl]-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-2-pyrimidin-2-yl-2,4-dihydro-[1,2,4]triazol-3-one | FC1=C(C=C(C=C1OCCF)OC)C(C=1NC(N(N1)C1=NC=CC=N1)=O)NC1=CC=C(C=C1)C1=NOC(=N1)C | C25H22F2N8O4
